US06790850B1
a) 3-chloro-4-methoxybenzenemethanethiol
Thiourea (3.04 g, 0.04 mol) was added to a solution of 3-chloro-4-methoxybenzyl bromide (4.0 g, 0.02 mol) in ethanol (200 ml) and refluxed for 16 hours. The reaction mixture was concentrated in vacuo and the residue was subsequently dissolved in aqueous sodium hydroxide solution (30 g, 0.75 mol in 300 ml water) and heated at 80° C. for one hour. The reaction mixture was cooled with an ice bath and acidified by addition of concentrated hydrochloric acid. The product was isolated by extraction three times into diethyl ether. The combined organic phases were dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo, to give the sub-title compound as a colourless oil in 83% yield (3.0 g).

reactant | Thiourea | 0.04 mol, 3.04 g | NC(=S)N | CH4N2S
reactant | 3-chloro-4-methoxybenzyl bromide | 0.02 mol, 4.0 g | ClC=1C=C(CBr)C=CC1OC | C8H8BrClO
reactant | sodium hydroxide | 0.75 mol, 300 ml, 30 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-chloro-4-methoxybenzenemethanethiol | 83% yield | ClC=1C=C(C=CC1OC)CS | C8H9ClOS
